US05239080
To a solution of ethyl 4-phenyl-2-oxazolepropionate (1.4 g) in THF (20 ml) was added sodium borohydride (0.86 g). Methanol (4 ml) was dropwise added to the mixture over a period of 10 minutes under reflux. The reaction mixture was refluxed for further 30 minutes, concentrated, made acidic and then extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried over MgSO4, and distilled to obtain crystals of 3-(4-phenyl-2-oxazolyl)propanol (1.07 g, 92%). Recrystallization from ether-hexane gave colorless prism crystals of mp 55°-56° C.

reactant | ethyl 4-phenyl-2-oxazolepropionate | 1.4 g | C1(=CC=CC=C1)C=1N=C(OC1)CCC(=O)OCC | C14H15NO3
reactant | sodium borohydride | 0.86 g | [BH4-].[Na+]
reactant | Methanol | 4 ml | CO | CH4O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 3-(4-phenyl-2-oxazolyl)propanol | 1.07 g, 92% | C1(=CC=CC=C1)C=1N=C(OC1)CCCO | C12H13NO2
